US07402579B2
2-Pyridinyl phenoxazine (28 mg,), 2-(2-aminoethyl)-1-methylpyrrolidine (17 ul, 0.1173 mmol) and aluminum chloride (21 mg, 0.1575 mmol) were mixed in anhydrous dichloromethane (1 ml) and stirred for 1 h. The mixture was then evaporated to a residue which was washed with saturated aqueous sodium potassium tartaric acid. The mixture was then extracted with 3×10 ml dichloromethane and the extracts dried (Na2SO4) and evaporated. The compound was then isolated using preparative thin layer chromatography (Al2O3, 3% MeOH in dichloromethane) to yield the 2-pyridinyl methylpyrrolidine (17.5 mg) as a yellow solid.

reactant | 2-Pyridinyl phenoxazine | 28 mg | N1=C(C=CC=C1)C1=CC=2NC3=CC=CC=C3OC2C=C1 | C17H12N2O
reactant | 2-(2-aminoethyl)-1-methylpyrrolidine | 0.1173 mmol, 17 ul | NCCC1N(CCC1)C | C7H16N2
reactant | aluminum chloride | 0.1575 mmol, 21 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | MeOH | CO | CH4O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-pyridinyl methylpyrrolidine | 17.5 mg | N1=C(C=CC=C1)C1N(CCC1)C | C10H14N2
